US06887896B1
A solution of 6-bromo-7-ethoxy-1,1,4-trimethyl-1,2-dihydronaphthalene (Compound A-5, 980 mg, 3.32 mmol), bis(pinacolato)diboron (1.18 g, 4.65 mmol), and potassium acetate (976 mg, 9.96 mmol) in N,N-dimethylformamide (20 mL) was purged with argon for 15 min. [1,1-bis(disphenylphosphino)-ferrocene]dichloropalladium(II) (1:1 complex with dichloromethane, 270 mg, 0.33 mmol) was added and purged with argon for another 5 min. The reaction was continuously stirred at 80° C. for 4 days under argon. Thereafter the reaction was cooled to room temperature and was quenched with water. The reaction mixture was extracted with ethyl acetate. The organic layer was washed successively with water, brine, dried over Na2SO4, and concentrated in vacuo. Purification by column chromatography (silica gel, 10 to 20% ethyl acetate in hexane) yielded the mixtures (700 mg) of 2-(3-ethoxy-5,5,8-trimethyl-5,6-dihydronaphthalen-2-yl)-4,4,5,5-tetramethyl [1,3,2]dioxaborolane (Compound A-7) and 2-(3-ethoxy-5,5,8-trimethyl-5,6-dihydro-naphthalen-2-yl)boronic acid (Compound A-9). The above mixture of Compounds A-7 and A-9, ethyl 7-iodo-3-methyl-nona-2E,4E,6Z-trienoate (Compound A-12, 0.7 g, 2.14 mmol), tetrakis(triphenylphosphine)palladium(0) (200 mg, 0.17 mmol), and 2 M sodium carbonate (6 mL, 12 mmol) in toluene (18 in L) and ethanol (9 mL) was heated to 100° C. for 36 h. The reaction was cooled to room temperature and extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2SO4, and concentrated in vacuo. Purification by column chromatography (silica gel, 1% to 2% ethyl acetate in hexane) yielded the title compound as an oil.

reactant | 6-bromo-7-ethoxy-1,1,4-trimethyl-1,2-dihydronaphthalene | 3.32 mmol, 980 mg | BrC=1C=C2C(=CCC(C2=CC1OCC)(C)C)C | C15H19BrO
reactant | bis(pinacolato)diboron | 4.65 mmol, 1.18 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 9.96 mmol, 976 mg | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-(3-ethoxy-5,5,8-trimethyl-5,6-dihydronaphthalen-2-yl)-4,4,5,5-tetramethyl [1,3,2]dioxaborolane | 700 mg | C(C)OC=1C(=CC=2C(=CCC(C2C1)(C)C)C)B1OC(C(O1)(C)C)(C)C | C21H31BO3
